US07709509B2
To an iced cooled solution of 1.1 g 2-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol dissolved in 50 ml dichloromethane were added 0.56 g commercially available 2-Chloro-4-hydroxybenzonitrile and 0.95 g triphenylphosphine. To this solution was added dropwise 0.57 ml Diethylazodicarboxylate. The cooling bath was removed and reaction mixture stirred at room temperature for six hours. The solvent was removed in vacuo and the residue purified by RP-HPLC to provide 400 mg 4-{2-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-2-chloro-benzonitrile as lyophilisate.

reactant | 2-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethanol | 1.1 g | C(CCC)C=1N=C(SC1CCO)C1=CC=C(C=C1)C(F)(F)F | C16H18F3NOS
reactant | 2-Chloro-4-hydroxybenzonitrile | ClC1=C(C#N)C=CC(=C1)O | C7H4ClNO
reactant | triphenylphosphine | 0.95 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | Diethylazodicarboxylate | 0.57 ml | CCOC(=O)/N=N/C(=O)OCC | C6H10N2O4
solvent | dichloromethane | 50 ml | ClCCl | CH2Cl2
product | 4-{2-[4-Butyl-2-(4-trifluoromethyl-phenyl)-thiazol-5-yl]-ethoxy}-2-chloro-benzonitrile | 400 mg | C(CCC)C=1N=C(SC1CCOC1=CC(=C(C#N)C=C1)Cl)C1=CC=C(C=C1)C(F)(F)F | C23H20ClF3N2OS
